US07655322B2
To a 500 mL round bottom flask equipped with a stirbar was added 11.6 g imidazole (170 mmol) and 9.55 g (170 mmol) finely pulverized potassium hydroxide. These were stirred in 200 mL acetone until the solution became yellow translucent. 15.0 g (56.8 mmol) α,α′-dibromo-m-xylene was then added, and the solution was stirred at room temperature overnight. The cloudy solution was filtered, and the white solids rinsed with acetone. The resulting filtrate was dried on silica and partitioned on a silica gel column using 30/70 acetonitrile/methanol as eluent. The product fractions were evaporated of solvent and the resulting oil recrystallized from ethyl acetate/hexanes to give 8.65 g 1-[3-(1H-imidazole-1yl-methyl)benzyl]-1H-imidazole as a white solid.

reactant | imidazole | 170 mmol, 11.6 g | N1C=NC=C1 | C3H4N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | α,α′-dibromo-m-xylene | 56.8 mmol, 15.0 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 1-[3-(1H-imidazole-1yl-methyl)benzyl]-1H-imidazole | 8.65 g | N1(C=NC=C1)CC=1C=C(CN2C=NC=C2)C=CC1 | C14H14N4
